US06949579B2
N-[6-chloro-5-[4-(Phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide
25.1 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 1.1 g of N-[6-chloro-5-[4-(phenylmethoxy)phenyl]-1-[[2-(trimethylsilyl)-ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously, in 50 cm3 of tetrahydrofuran. The medium is then refluxed for 18 hours and the resulting mixture is allowed to return to room temperature and 100 cm3 of ethyl acetate are added; the organic phase is washed with 2×100 cm3 of saturated aqueous sodium hydrogen carbonate solution and then with 100 cm3 of saturated aqueous sodium chloride solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and evaporated to dryness under reduced pressure (2 kPa; 45° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 4 cm), eluting with a cyclohexane/ethyl acetate mixture (70/30 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.); the residue is taken up in 30 cm3 of diisopropyl ether, filtered off on a sinter funnel and washed with 2×20 cm3 of diisopropyl ether. After drying under reduced pressure (90 Pa; 50° C.), 1.3 g of N-[6-chloro-5-[4-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide are obtained in the form of white crystals melting at 230° C.

reactant | tetrabutylammonium fluoride | 25.1 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[6-chloro-5-[4-(phenylmethoxy)phenyl]-1-[[2-(trimethylsilyl)-ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1.1 g | ClC1=C(C=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C30H36ClN3O3Si
reactant | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
product | N-[6-chloro-5-[4-(Phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide | ClC1=C(C=C2C(=NNC2=C1)NC(CCC)=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C24H22ClN3O2
